US08110575B2
1-(4-(4,5-difluoroindoline-1-carbonyl)pyridin-2-yl)spiro[piperidine-4,4′-pyrido[2,3-d][1,3]-oxazin]-2′(1′H)-one
0.23 g (0.78 mmol) (2-chloro-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone were added to 0.20 g (0.78 mmol) spiro[piperidine-4,4′-pyrido[2,3-d][1,3]oxazin]-2′(1′H)-one-hydrochloride and 0.11 g (0.78 mmol) potassium carbonate in 3.0 mL NMP. The reaction mixture was first of all stirred for 10 h at 130° C., then cooled to RT and then stirred overnight at RT. The crude product was combined with water/acetonitrile and purified by preparative HPLC-MS. The product fractions were combined and evaporated down. The residue was triturated with diisopropylether, suction filtered and dried in the air.

reactant | (2-chloro-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone | 0.78 mmol, 0.23 g | ClC1=NC=CC(=C1)C(=O)N1CCC2=C(C(=CC=C12)F)F | C14H9ClF2N2O
reactant | spiro[piperidine-4,4′-pyrido[2,3-d][1,3]oxazin]-2′(1′H)-one-hydrochloride | 0.78 mmol, 0.20 g | Cl.N1C(OC2(C3=C1N=CC=C3)CCNCC2)=O
reactant | potassium carbonate | 0.78 mmol, 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | water acetonitrile | O.C(C)#N
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
product | 1-(4-(4,5-difluoroindoline-1-carbonyl)pyridin-2-yl)spiro[piperidine-4,4′-pyrido[2,3-d][1,3]-oxazin]-2′(1′H)-one | FC1=C2CCN(C2=CC=C1F)C(=O)C1=CC(=NC=C1)N1CCC2(C3=C(NC(O2)=O)N=CC=C3)CC1 | C25H21F2N5O3
